US06528653B2
Ethyl-4-[(ethoxycarbonyl)methyl]-5-nitro-2-thiopheneacrylate (230 mg, 0.74 mmol) was dissolved in aqueous dioxan (6 ml, 5:1 dioxan/water) and treated with reduced iron powder (0.4 g, 7.2 mmol) and iron sulfate heptahydrate (50 mg, 0.18 mmol). The reaction mixture was refluxed for 1 hour then filtered through celite and washed through with diethyl ether. The combined organics were then washed with saturated sodium hydrogen carbonate, saturated sodium chloride, dried over magnesium sulfate and evaporated to dryness. The residue was chromatographed on silica gel using hexane/ethyl acetate (2:1) as eluent to give 150 mg 3-(5-amino-4-ethoxycarbonylmethyl-thiophen-2-yl)-acrylic acid ethyl ester. MS(ES): m/e 284 [M+H].

reactant | Ethyl-4-[(ethoxycarbonyl)methyl]-5-nitro-2-thiopheneacrylate | 0.74 mmol, 230 mg | C(C)OC(C=CC=1SC(=C(C1)CC(=O)OCC)[N+](=O)[O-])=O | C13H15NO6S
solvent | dioxan | 6 ml | O1CCOCC1 | C4H8O2
catalyst | iron sulfate heptahydrate | 0.18 mmol, 50 mg | O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Fe+2]
product | 3-(5-amino-4-ethoxycarbonylmethyl-thiophen-2-yl)-acrylic acid ethyl ester | 150 mg | C(C)OC(C=CC=1SC(=C(C1)CC(=O)OCC)N)=O | C13H17NO4S
